US04602013
4-Amino-6,7,8,9-tetrahydroquinolizin-2-one Monohydrochloride
To a solution of lithium diisopropylamide (LDA), prepared from n-BuLi (64.5 ml, 0.1M) and diisopropylamine (10.1 g, 14 ml, 0.1M) in dry THF (100 ml) was added under N2 at -10° C. 5-methylisoxazole (4.2 g, 4.1 ml, 0.05M). The resultant yellow suspension was stirred (mechanical stirrer) at -10° C. for 1 hr before 1-aza-2-methoxy-1-cyclohexene (5.6 g, 0.05M) was added dropwise. A light yellow precipitate was immediately formed. The mixture was allowed to warm to ambient over a period of 20 hr. MeOH (40 ml) was slowly added and the resulting reddish solution was stirred at ambient for 2 hr. The solvents were evaporated in vacuo, and the residual oil was flash column chromatographed on silica gel (EM-60) with 30% MeOH in CH2Cl2 as the eluent to give the desired free base. The HCl salt was then prepared by adding conc HCl to a solution of the free base in methanol. Recrystallization from MeOH/ether gave the title compound (2.9 g, 29%). TLC (30% MeOH in CH2Cl2); Rf=0.53. IR (KBr), cm-1, 3330, 3180, 3030, 2950.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | n-BuLi | 0.1M, 64.5 ml | [Li]CCCC
reactant | diisopropylamine | 0.1M, 14 ml, 10.1 g | C(C)(C)NC(C)C | C6H15N
reactant | 5-methylisoxazole | 0.05M, 4.1 ml, 4.2 g | CC1=CC=NO1 | C4H5NO
reactant | 1-aza-2-methoxy-1-cyclohexene | 0.05M, 5.6 g | NOC1=CCCCC1 | C6H11NO
reactant | HCl | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | MeOH | 40 ml | CO | CH4O
product | 4-Amino-6,7,8,9-tetrahydroquinolizin-2-one Monohydrochloride | 2.9 g, 29% | Cl.NC1=CC(C=C2CCCCN12)=O | InChI=1S/C9H12N2O.ClH/c10-9-6-8(12)5-7-3-1-2-4-11(7)9;/h5-6H,1-4,10H2;1H
